Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
CS(=O)(=O)O[CH2:1][CH:2]1[CH2:3][CH2:4][N:5]([C:6]([CH2:7][C@H:8]2[N:9]([S:10]([c:11]3[cH:12][c:13]([CH3:14])[c:15]([Cl:16])[cH:17][c:18]3[CH3:19])(=[O:20])=[O:21])[CH:22]=[CH:23][NH:24][C:25]2=[O:26])=[O:27])[CH2:28][CH2:29]1.[CH2:30]1[CH2:31][CH2:32][NH:33][CH2:34]1>>[CH2:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([CH2:7][C@H:8]2[N:9]([S:10]([c:11]3[cH:12][c:13]([CH3:14])[c:15]([Cl:16])[cH:17][c:18]3[CH3:19])(=[O:20])=[O:21])[CH:22]=[CH:23][NH:24][C:25]2=[O:26])=[O:27])[CH2:28][CH2:29]1)[N:33]1[CH2:32][CH2:31][CH2:30][CH2:34]1,CS(=O)(=O)[O:101][CH2:1][CH:2]1[CH2:3][CH2:4][N:5]([C:6]([CH2:7][C@H:8]2[N:9]([S:10]([c:11]3[cH:12][c:13]([CH3:14])[c:15]([Cl:16])[cH:17][c:18]3[CH3:19])(=[O:20])=[O:21])[CH:22]=[CH:23][NH:24][C:25]2=[O:26])=[O:27])[CH2:28][CH2:29]1.[CH2:30]1[CH2:31][CH2:32][NH:33][CH2:34]1>>[CH2:1]([CH:2]1[CH2:3][CH2:4][N:5]([C:6]([CH2:7][C@H:8]2[N:9]([S:10]([c:11]3[cH:12][c:13]([CH3:14])[c:15]([Cl:16])[cH:17][c:18]3[CH3:19])(=[O:20])=[O:21])[CH:22]=[CH:23][NH:24][C:25]2=[O:26])=[O:27])[CH2:28][CH2:29]1)[N:33]1[CH2:32][CH2:31][CH2:30][CH2:34]1,SN2,"[(33, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2](=[O:3])OC(C)=O.[CH3:4][CH2:5][c:6]1[cH:7][c:8]([NH2:9])[cH:10][n:11][c:12]1[S:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C:2](=[O:3])[NH:9][c:8]1[cH:7][c:6]([CH2:5][CH3:4])[c:12]([S:13][CH2:14][c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[n:11][cH:10]1,[CH3:4][CH2:5][c:6]1[cH:7][c:8]([NH2:9])[cH:10][n:11][c:12]1[S:13][CH2:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.CC(=O)[O:101][C:2]([CH3:1])=[O:3]>>[CH3:1][C:2](=[O:3])[NH:9][c:8]1[cH:7][c:6]([CH2:5][CH3:4])[c:12]([S:13][CH2:14][c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[n:11][cH:10]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(9, 2), ([2, 3], 3), (3, [3, 2]), ([2, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])OC(OC(C)(C)C)=O.[CH3:8][O:9][C:10](=[O:11])[CH:12]([NH3+:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1[F:20]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:13][CH:12]([C:10]([O:9][CH3:8])=[O:11])[c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1[F:20],CC(C)(C)[O:202][C:201](=O)[O:101][C:6]([O:5][C:2]([CH3:1])([CH3:3])[CH3:4])=[O:7].[CH3:8][O:9][C:10](=[O:11])[CH:12]([NH2:13])[c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1[F:20]>>[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[O:7])[NH:13][CH:12]([C:10]([O:9][CH3:8])=[O:11])[c:14]1[cH:15][cH:16][cH:17][cH:18][c:19]1[F:20],nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(13, 6), ([6, 7], 7), (7, [7, 6]), ([6, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[S:1](=[O:2])(=[O:3])[c:4]1[cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][cH:12][c:13]1[F:14].[NH2:15][C:16](=[O:17])[c:18]1[nH:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]2[c:26]1-[c:27]1[cH:28][cH:29][c:30]([NH2:31])[cH:32][cH:33]1>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][cH:12][c:13]1[F:14])[NH:31][c:30]1[cH:29][cH:28][c:27](-[c:26]2[c:18]([C:16]([NH2:15])=[O:17])[nH:19][c:20]3[cH:21][cH:22][cH:23][cH:24][c:25]23)[cH:33][cH:32]1,[NH2:15][C:16](=[O:17])[c:18]1[nH:19][c:20]2[cH:21][cH:22][cH:23][cH:24][c:25]2[c:26]1-[c:27]1[cH:28][cH:29][c:30]([NH2:31])[cH:32][cH:33]1.[Cl:101][S:1](=[O:2])(=[O:3])[c:4]1[cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][cH:12][c:13]1[F:14]>>[S:1](=[O:2])(=[O:3])([c:4]1[cH:5][c:6]([C:7]([F:8])([F:9])[F:10])[cH:11][cH:12][c:13]1[F:14])[NH:31][c:30]1[cH:29][cH:28][c:27](-[c:26]2[c:18]([C:16]([NH2:15])=[O:17])[nH:19][c:20]3[cH:21][cH:22][cH:23][cH:24][c:25]23)[cH:33][cH:32]1,nucleophilic_attack_to_(thio)carbonyl_or_sulfonyl,"[(31, 1), ([1, 2], 2), (2, [2, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
